US08809538B2
Methyl 2-phenyl-1H-imidazole-4-carboxylate
2-Phenyl-1H-imidazole-4-carboxylic acid mono hydrate (2.00 g) was suspended in methanol (30 mL) and concentrated hydrochloric acid (10.0 mL) was added and the reaction mixture heated at reflux overnight. The reaction mixture was cooled to room temperature and diluted with ethylacetate and the aqueous basified with 1 N sodium hydroxide. The organics were washed with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford the title compound. The title compound was used without further purification, having the following physical data.

reactant | 2-Phenyl-1H-imidazole-4-carboxylic acid mono hydrate | 2.00 g | O.C1(=CC=CC=C1)C=1NC=C(N1)C(=O)O
reactant | hydrochloric acid | 10.0 mL | Cl | ClH
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | methanol | 30 mL | CO | CH4O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | Methyl 2-phenyl-1H-imidazole-4-carboxylate | C1(=CC=CC=C1)C=1NC=C(N1)C(=O)OC | C11H10N2O2
